US06455528B1
(5) N-(4-((4-(Pyrimidin-2-yl)piperazin-1-yl)methyl)phenylmethyl)acetamide
A solution of N-(4-chloromethylphenylmethyl)acetamide (15.0 g), 1-(2-pyrimidyl)piperazine dihydrochloride (19.8 g) and potassium carbonate (42.0 g) in dimethylformamide (200 ml) was stirred at 80° C. for 8.5 hr. The reaction mixture was poured into water (500 ml) and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated to give a brown oil (24.0 g). The obtained brown oil was purified by silica gel column chromatography (developing solvent; chloroform:methanol=20:1) to give a pale-brown oil (18.7 g). The obtained pale-brown oil was crystallized from ethyl acetate: hexane (5:1, 100 ml) and the crystals were recrystallized from ethyl acetate:hexane (10:1, 100 ml) to give the title compound (12.8 g) as white crystals,

reactant | N-(4-chloromethylphenylmethyl)acetamide | 15.0 g | ClCC1=CC=C(C=C1)CNC(C)=O | C10H12ClNO
reactant | 1-(2-pyrimidyl)piperazine dihydrochloride | 19.8 g | Cl.Cl.N1=C(N=CC=C1)N1CCNCC1
reactant | potassium carbonate | 42.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 500 ml | O | H2O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | N-(4-((4-(Pyrimidin-2-yl)piperazin-1-yl)methyl)phenylmethyl)acetamide | 24.0 g | N1=C(N=CC=C1)N1CCN(CC1)CC1=CC=C(C=C1)CNC(C)=O | C18H23N5O
